US08623889B2
Step 8: 7-(5-fluoro-4-methylpyridin-3-yl)-2,6-naphthyridin-3-amine
A suspension of tert-butyl 7-(5-fluoro-4-methylpyridin-3-yl)-2,6-naphthyridin-3-ylcarbamate (50 mg, 0.14 mmol) in 1,2-dichloroethane (1 mL) was treated with trifluoroacetic acid (0.11 mL, 1.41 mmol), and the mixture was stirred at 40° C. for 3 hours. The mixture was concentrated in vacuo and then diluted with ethyl acetate (50 mL) and washed with saturated aqueous sodium bicarbonate solution (10 mL). The organic layer was separated, dried over sodium sulfate, filtered, and evaporated in vacuo to afford the title compound as a bright yellow solid (36 mg, 98%), which was used in the next step without further purification.

reactant | tert-butyl 7-(5-fluoro-4-methylpyridin-3-yl)-2,6-naphthyridin-3-ylcarbamate | 0.14 mmol, 50 mg | FC=1C(=C(C=NC1)C1=NC=C2C=C(N=CC2=C1)NC(OC(C)(C)C)=O)C | C19H19FN4O2
reactant | trifluoroacetic acid | 1.41 mmol, 0.11 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | 1,2-dichloroethane | 1 mL | ClCCCl | C2H4Cl2
product | 7-(5-fluoro-4-methylpyridin-3-yl)-2,6-naphthyridin-3-amine | 36 mg, 98% | FC=1C(=C(C=NC1)C1=NC=C2C=C(N=CC2=C1)N)C | C14H11FN4
